US04716160
Ethyl 7-thienylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate (E1)
Ethyl 7-chloro-1H-pyrazolo[4,3-b]pyridine-6-carboxylate (4.5 g 0.02 mole) and aminothiophene (2.0 g) [prepared from 2-nitrothiophene (supplied by Aldrich and shown by nmr to contain 15% of 3-nitrothiophene) by reduction using either H2 ; 10% Pd/C or stannous chloride] were stirred together under nitrogen for 24 hours. The ethanol was removed under reduced pressure. The resulting brown oil was purified by column chromatography on silica eluting with 5% methanol/ether to give the title compound as a beige solid (0.600 g), mp 188°-190° C.

reactant | Ethyl 7-chloro-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 0.02 mole, 4.5 g | ClC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C9H8ClN3O2
reactant | aminothiophene | 2.0 g | NC=1SC=CC1 | C4H5NS
reactant | 2-nitrothiophene | [N+](=O)([O-])C=1SC=CC1 | C4H3NO2S
catalyst | Pd/C | [Pd] | Pd
product | Ethyl 7-thienylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 0.600 g | S1C(=CC=C1)NC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C13H12N4O2S
